US08183246B2
5-(4-Methoxyphenyl)-6-phenyl-N-[6-(1H-tetrazol-5-yl)hexyl]furo[2,3-d]pyrimidine-4-amine
Stir 0.098 g (0.23 mmol) 7-{[5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]amino}-heptanenitrile, 0.41 g (3.5 mmol) trimethylsilylazide and 86 mg (0.25 mmol) di-n-butyltin oxide in 5 ml toluene overnight at 80° C. After concentrating by evaporation, take up the residue in water, acidify with dilute hydrochloric acid and extract with methylene chloride. Wash the organic phase with sodium chloride solution, dry over magnesium sulphate and concentrate by evaporation. Purify the raw product by RP-HPLC (column: Gromsil 250 mm×30 mm, 10 μm; acetonitrile/water gradient: 0-3 min 5% acetonitrile, 3-34 min 5%→98% acetonitrile, 34-38 min 98% acetonitrile). 61 mg (55% of theor.) of the title compound is obtained as white crystals.

reactant | 7-{[5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]amino}-heptanenitrile | 0.23 mmol, 0.098 g | COC1=CC=C(C=C1)C1=C(OC=2N=CN=C(C21)NCCCCCCC#N)C2=CC=CC=C2 | C26H26N4O2
reactant | trimethylsilylazide | 3.5 mmol, 0.41 g | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | di-n-butyltin oxide | 0.25 mmol, 86 mg | C(CCC)[Sn](CCCC)=O
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(4-Methoxyphenyl)-6-phenyl-N-[6-(1H-tetrazol-5-yl)hexyl]furo[2,3-d]pyrimidine-4-amine | COC1=CC=C(C=C1)C1=C(OC=2N=CN=C(C21)NCCCCCCC2=NN=NN2)C2=CC=CC=C2 | C26H27N7O2
